Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1](/[C:2](=[C:3](\[N:4]=[C:5](/[O:6][H:13])[H:15])[H:12])[H:11])([H:7])([H:8])[H:9].[H:10][H:14]>>[C:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[H:15])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],49.840539874418994
[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8]>>[O:1]1[C@:2](/[C:3](=[N:5]\[C:6](=[O:7])[H:12])[H:9])([H:8])[C:4]1([H:10])[H:11],57.84117725496671
[C:1]([N:2]([C:3](=[O:4])[H:9])[H:8])([H:5])([H:6])[H:7]>>[C:1]([N:2]([H:7])[H:8])([H:5])[H:6].[C:3](=[O:4])[H:9],94.79325267195208
[C:3](=[C:4]=[C:5]([C:6]#[N:7])[H:10])([H:8])[H:9].[O+:1]#[C-:2]>>[O:1]=[C:2]([C:3]([C:4]#[C:5][H:10])([H:8])[H:9])[C:6]#[N:7],36.88904000672309
[N:1]1([H:8])[C:2](=[O:3])[C:5](=[C:4]([H:9])[H:10])[N:7]([H:13])[C:6]1([H:11])[H:12]>>[N:1](=[C:2]1\[O:3][C:4]([H:9])([H:10])[C@@:5]12[C:6]([H:11])([H:12])[N:7]2[H:13])\[H:8],83.9400289410484
[C:1]([N:2]([C:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]1[C:3]([H:12])([H:13])[C@:4]1([O:5][H:11])[O:6][C:7]([H:14])([H:15])[H:16])([H:8])([H:9])[H:10],62.17894756579929
[C+:2](=[C:4]=[N-:5])[H:9].[C:1]([O:3][H:10])([H:6])([H:7])[H:8]>>[C:1]([C@@:2]([O:3][H:10])([C:4]#[N:5])[H:9])([H:6])([H:7])[H:8],28.73790100915049
[C:1]([C:7]([C:2](=[O:3])[C:4]([C:5](=[C:6]([H:11])[H:15])[H:14])([H:12])[H:13])([H:16])[H:17])([H:8])([H:9])[H:10]>>[C:1]([C:2]1([O:3][H:11])[C:4]([H:12])([H:13])[C:5]([H:14])=[C:6]([H:15])[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10],84.97525201063671
[O:1]=[C:2]1[N:3]([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[C:6]([H:13])([H:14])[N:7]1[H:15]>>[C:4](=[C:5]([H:11])[H:12])([H:9])[H:10].[C:6](=[N:7][H:15])([H:13])[H:14].[O:1]=[C:2]=[N:3][H:8],63.3102685168088
[H:8][H:9].[N:1](=[C:2]1/[C-:3]([N+:4]#[N:5])[O:6]1)\[H:7]>>[N:1]([C:2](=[C:3]([N+:4]#[N:5])[H:9])[O-:6])([H:7])[H:8],26.269740517628705
[N:1]([N:7]([C@@:6]1([H:12])[C:2](=[O:3])[C:4]([H:10])([H:11])[O:5]1)[H:13])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9],42.4591557912537
[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@@:4]2([H:11])[O:5][C@@:6]12[H:12]>>[C:1](=[C:6]([O:5]/[C:4](=[C:3](\[C:2][H:9])[H:10])[H:11])[H:12])([H:7])[H:8],72.4696365810213
[N:1]([C@:2]1([O:3][H:15])[C:4]([H:10])([H:11])[C:5]([H:12])([H:13])[C@@:6]1([O:7][H:16])[H:14])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9],41.331207964125205
[C:1]1([H:7])([H:9])[C:2]([H:10])([H:11])[C:3]1([C+:4]=[C:5]([O-:6])[H:12])[H:8]>>[C:1]([C:2]([C:3]#[C:4][C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],30.81461855730329
[C:1]([C@:7]1([H:17])[O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6]1)([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6]#[C:7][H:17])([H:8])([H:9])[H:10],62.2862155723728
[O:1]([C:2](=[C:3]=[C:4]([C:5]#[N:6])[H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3]#[C:4][C:5]#[N:6])([H:8])[H:9])[H:7],67.60549400192325
[C:1]([C:2](=[O:3])[O:4]/[C:5](=[N:6]/[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1](=[C:2]1[O:3][N:6]([H:11])[C:5]([H:8])([H:10])[O:4]1)([H:7])[H:9],95.73513262970528
[C:1]1([H:8])([H:9])[C@@:2]2([H:10])[C:3]([H:11])([H:12])[C@:4]3([H:13])[C:5]([H:14])([H:15])[C@@:6]2([H:16])[C@:7]13[H:17]>>[C:1]([C@:7]1([H:17])[C@:4]2([H:13])[C:3]([H:11])([H:12])[C:2]([H:10])=[C:6]1[C:5]2([H:14])[H:15])([H:8])([H:9])[H:16],125.35951508667699
[O:1]([C@@:2]([C:3]([C:4]#[C:5][H:12])([H:10])[H:11])([C:6]#[C:7][H:13])[H:9])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C-:4]=[C:5]([H:12])[C+:7]=[C:6]1[H:13])[H:8],42.6905664416276
[C:1](#[C:2][c:3]1[c:4]([H:9])[c:5]([H:10])[c:6]([H:11])[o:7]1)[H:8]>>[C-:1](=[C:2]1[C-:3]=[O+:7][C:6]([H:11])=[C:5]([H:10])[C+:4]1[H:9])[H:8],100.295531918759
[N:1]([C:2]([C:3]1([H:9])[N:4]=[N:5]1)=[O:6])([H:7])[H:8]>>[N:1]([C:2](=[C:3]([N+:4]#[N:5])[H:9])[O-:6])([H:7])[H:8],34.077785326700095
[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C@@:3]([C:2]([O:4][H:13])([H:10])[H:11])([C:5]#[N:6])[H:12])([H:7])([H:8])[H:9],93.20794506602721
[C:1]([C@@:2]([C:3]([C:4](=[O:5])[H:14])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10]>>[C:1](/[C:2](=[C:3](\[C:4](=[O:5])[H:14])[H:12])[C:6]#[N:7])([H:8])([H:9])[H:10].[H:11][H:13],97.23604152714421
[C:1]([C:2](=[C:3]([H:11])[H:12])[C:4](=[C:5]([H:13])[H:14])[O:6][H:16])([H:7])([H:8])[H:9].[H:10][H:15]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]([H:13])([H:14])[H:15])[O:6][H:16])([H:7])([H:8])[H:9],98.3678238527379
[C:1]([C@@:2]([C:3](=[O:4])[H:11])([C:5]#[C:6][H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([C:3](=[O:4])[H:11])([C:6](=[C:5])[H:12])[H:10])([H:7])([H:8])[H:9],54.578430835620296
[N:1]([C-:2]=[O+:3][C:4]#[C:5][H:8])([H:6])[H:7]>>[N:1]([C:2](=[O:3])[C:4]#[C:5][H:8])([H:6])[H:7],24.85789576483149
